US05364871
Benzoyl chloride (7.7 g) was added slowly to a solution of sodium thiocyanate (4.8 g) in acetone (220 ml) under refluxing and the mixture was refluxed for 15 minutes. 2-Amino-4-(6-propionylaminomethylpyridin-2-yl)thiazole (12.0 g) was added to the mixture. The mixture was refluxed for 4 hours. The resulting precipitate was collected by filtration and was washed with water and then acetone to afford 2-(3-benzoylthioureido)-4-(6-propionylaminomethylpyridin-2-yl)thiazole (16.5 g).

reactant | Benzoyl chloride | 7.7 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium thiocyanate | 4.8 g | [S-]C#N.[Na+]
reactant | 2-Amino-4-(6-propionylaminomethylpyridin-2-yl)thiazole | 12.0 g | NC=1SC=C(N1)C1=NC(=CC=C1)CNC(CC)=O | C12H14N4OS
solvent | acetone | 220 ml | CC(=O)C | C3H6O
product | 2-(3-benzoylthioureido)-4-(6-propionylaminomethylpyridin-2-yl)thiazole | 16.5 g | C(C1=CC=CC=C1)(=O)NC(NC=1SC=C(N1)C1=NC(=CC=C1)CNC(CC)=O)=S | C20H19N5O2S2
